US05773428
To a stirred solution of (11S)-11-amino-(10-oxo-1,9-diazatricyclo[11.6.1.014,19 ]eicosa-13(20),14(19),15,17-tetraene (654 mg) and racemic 4-methyl-2-t-butoxycarbonylmethylpentanoic acid (800 mg) in 30 mL of anhydrous DMF under argon was added 1-hydroxybenzotriazole (360 mg), followed by EDCI (940 mg). The mixture was left to stir overnight and then the DMF was removed under reduced pressure. The residue was taken up in a mixture of CH2Cl2 (100 mL) and 1.5% cold HCl (100 mL) and transferred to a separatory funnel. The organic phase was isolated and washed consecutively with 1.5% HCl (100 mL), 5% NaHCO3 (100 mL) and brine (100 mL). The CH2Cl2 phase was dried (MgSO4), filtered and concentrated providing a semicrystalline product, (11S)-5-methyl-3-(10-oxo-1,9-diazatricyclo[11.6.1.014,19 ]eicosa-13(20),14(19),15,17-tetraen-11-ylcarbamoyl)hexanoic acid t-butyl ester. The two individual stereoisomers of this compound were separated by chromatography on silica gel with ethyl acetate/hexane as eluant. The less polar stereoisomer had a melting point of 154°-157° C., [α]D24 43.9°, c=23.8 mg/2 mL CHCl3, while the more polar stereoisomer had a melting point of 168°-171° C., [α]D24 =-19.1°, c=11.86 mg/2 mL CHCl3.

reactant | 10-oxo-1,9-diazatricyclo[11.6.1.014,19 ]eicosa-13(20),14(19),15,17-tetraene | 654 mg | O=C1NCCCCCCCN2C=3C=CC=CC3C(CC1)=C2 | C18H24N2O
reactant | racemic 4-methyl-2-t-butoxycarbonylmethylpentanoic acid | 800 mg | CC(CC(C(=O)O)CC(=O)OC(C)(C)C)C | C12H22O4
reactant | 1-hydroxybenzotriazole | 360 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | EDCI | 940 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | (11S)-5-methyl-3-(10-oxo-1,9-diazatricyclo[11.6.1.014,19 ]eicosa-13(20),14(19),15,17-tetraen-11-ylcarbamoyl)hexanoic acid t-butyl ester | C(C)(C)(C)OC(CC(CC(C)C)C(N[C@@H]1C(NCCCCCCCN2C=3C=CC=CC3C(C1)=C2)=O)=O)=O | C30H45N3O4
